US05262509
A. Synthesis of 3,3'-Dimethyl-4,4'-diacetamidobiphenyl
3,3'-Dimethyl-4,4'-diaminobiphenyl (12.74 grams, 0.12 --NH2 equivalent) is ground to a fine powder and added to a beaker containing stirred, 90° C. deionized water (1200 milliliters). After two minutes, aqueous 36.5% hydrochloric acid (12.00 grams, 0.12 mole) is added to the stirred, 90° C. suspension. The solution which formed in six minutes is cooled to 70° C. Acetic anhydride (15.04 grams, 0.473 mole) is added to the stirred solution and mixed therein for 20 seconds before addition of an aqueous sodium acetate solution (prepared by dissolution of anhydrous sodium acetate [19.69 grams, 0.24 mole]in deionized water [60.0 grams]). After thoroughly stirring the white slurry, it is maintained at 4° C. for 16 hours, followed by filtration to remove the precipitated product. The recovered filter cake is washed with two portions (150 milliliters) of deionized water then dried in a vacuum oven at 60° C. and 5 mm Hg to a constant weight of 16.92 grams. The product is recovered as a white crystalline powder. Fourier transform infrared spectrophotometric analysis of a potassium chloride pellet of the product confirms the product structure: disappearance of the absorbances observed for the --NH2 group, appearance of solid state >NH stretching absorbances at 3283 (3183 slight shoulder) cm-1, a solid state amide I carbonyl stretching absorbance at 1656 cm-1, a solid state amide II carbonyl stretching absorbance at 1516 cm-1 (masking the aromatic ring absorbance) and a C--H out-of-plane bending vibration at 819 cm-1 due to the paradisubstituted aromatic rings. Proton nuclear magnetic resonance spectroscopy further confirms the product structure.

reactant | 3,3'-Dimethyl-4,4'-diaminobiphenyl | 12.74 grams | CC=1C=C(C=CC1N)C1=CC(=C(C=C1)N)C | C14H16N2
reactant | hydrochloric acid | 0.12 mole, 12.00 grams | Cl | ClH
reactant | Acetic anhydride | 0.473 mole, 15.04 grams | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | 0.24 mole, 19.69 grams | C(C)(=O)[O-].[Na+]
solvent | water | 1200 milliliters | O | H2O
product | 3,3'-Dimethyl-4,4'-diacetamidobiphenyl | CC=1C=C(C=CC1NC(C)=O)C1=CC(=C(C=C1)NC(C)=O)C | C18H20N2O2
